US07777047B2
{4-[(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetic acid
To a solution of ethyl {4-[(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetate (0.490 g) in a mixed solvent of tetrahydrofuran (10 ml) and methanol (5 ml) was added 8N aqueous sodium hydroxide solution (1.5 ml), and the mixture was stirred at room temperature for 16 hr. Saturated aqueous ammonium chloride solution was added to the reaction solution, and the precipitated crystals were collected by filtration, washed with ethyl acetate and water, and dried to give the title compound (0.360 g, yield 57%) as colorless crystals.

reactant | ethyl {4-[(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetate | 0.490 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CN1CCN(CC1)CC(=O)OCC)S(=O)(=O)C=1SC=CC1 | C25H29N5O4S3
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 8N, 1.5 ml | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 5 ml | CO | CH4O
product | {4-[(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetic acid | 0.360 g, yield 57% | CN(C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CN1CCN(CC1)CC(=O)O)S(=O)(=O)C=1SC=CC1 | C23H25N5O4S3
